US06887885B2
A mixture of trifluoromethanesulfonic acid 5-fluoropyridin-3-yl ester (3.67 g, 15.0 mmol), potassium acetate (2.94 g, 30.0 mmol), bis(pinacolato)diboron (4.18 g, 17.0 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane (0.37 g, 0.45 mmol) in 1,4-dioxane (45 ml containing 1% dimethylsulfoxide) was degassed with nitrogen for 1 h then heated at 90° C. for 14 h. The reaction was cooled to ambient temperature and then concentrated in vacuo. The residue was stirred with 2N sodium hydroxide (300 ml) for 10 min then filtered. The filtrate was extracted with diethyl ether (2×200 ml) and the organics discarded. The aqueous component was cooled to 0° C. then treated with 36% hydrochloric acid added dropwise over 15 min until pH 5. The resulting precipitate was allowed to stand at 0° C. for 2 h then filtered and washed with ice-cold water. The sand-coloured solid was dried under vacuum (300 mmHg) over phosphorus pentoxide to afford 3-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine as a yellow oil (3.0 g, 90%): δH (400 MHz, CDCl3) 1.25 (12H, s), 7.75 (1H, dd, J 5 and 1), 8.52 (1H, d, J 3), 8.74 (1H, s).

reactant | trifluoromethanesulfonic acid 5-fluoropyridin-3-yl ester | 15.0 mmol, 3.67 g | FC=1C=C(C=NC1)OS(=O)(=O)C(F)(F)F | C6H3F4NO3S
reactant | potassium acetate | 30.0 mmol, 2.94 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 17.0 mmol, 4.18 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 45 ml | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 0.45 mmol, 0.37 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 3-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine | 3.0 g, 90% | FC=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C11H15BFNO2
